US05565479
2-(4-Imidazolylmethyl)benzofuro[3,2-d]thiazole
Starting compounds: 2-bromo-3-coumaranone, 4-imidazolyl thioacetamide hydrochloride

reactant | 2-bromo-3-coumaranone | BrC1OC2=CC=CC=C2C1=O | C8H5BrO2
reactant | 4-imidazolyl thioacetamide hydrochloride | Cl.N1C=NC(=C1)CC(=S)N
product | 2-(4-Imidazolylmethyl)benzofuro[3,2-d]thiazole | N1C=NC(=C1)CC=1SC2=C(N1)C1=C(O2)C=CC=C1 | C13H9N3OS
